US08710049B2
1-((1R,2R)-2-((S)-1-(4-Nitrophenyl)piperidin-3-ylamino)cyclohexyl)-3-(4-(trifluoromethoxy)phenyl)urea
1-((1R,2R)-2-((S)-1-(4-Nitrophenyl)piperidin-3-ylamino)cyclohexyl)-3-(4-(trifluoromethoxy)phenyl)urea was synthesized as described in General Procedure G, using 1-isocyanato-4-(trifluoromethoxy)benzene (15.31 mg, 0.075 mmol) and (1R,2R)—N1-(1-(4-nitrophenyl)piperidin-3-yl)cyclohexane-1,2-diamine (24 mg, 0.075 mmol) to give 15 mg (30% yield) of the title compound as a yellow solid. Anal. Calcd. for C25H30F3N5O4 m/z 521.5, found: 522.3 (M+H)+; 1H NMR (500 MHz, CDCl3) δ ppm 7.77 (d, J=8.80 Hz, 2H), 7.22 (d, J=8.80 Hz, 2H), 6.99 (d, J=8.25 Hz, 2H), 6.67 (d, J=8.80 Hz, 2H), 3.67 (br. s., 1H), 3.63-3.56 (m, 1H), 3.56-3.49 (m, 1H), 3.29 (br. s., 3H), 3.07-2.96 (m, 1H), 2.11-2.20 (m, 2H), 1.99-1.58 (m, 7H), 1.43 (d, J=12.65 Hz, 1H), 1.30-1.12 (m, 2H).

reactant | 1-isocyanato-4-(trifluoromethoxy)benzene | 0.075 mmol, 15.31 mg | N(=C=O)C1=CC=C(C=C1)OC(F)(F)F | C8H4F3NO2
reactant | (1R,2R)—N1-(1-(4-nitrophenyl)piperidin-3-yl)cyclohexane-1,2-diamine | 0.075 mmol, 24 mg | [N+](=O)([O-])C1=CC=C(C=C1)N1CC(CCC1)N[C@H]1[C@@H](CCCC1)N | C17H26N4O2
product | 1-((1R,2R)-2-((S)-1-(4-Nitrophenyl)piperidin-3-ylamino)cyclohexyl)-3-(4-(trifluoromethoxy)phenyl)urea | 15 mg, 30% yield | [N+](=O)([O-])C1=CC=C(C=C1)N1C[C@H](CCC1)N[C@H]1[C@@H](CCCC1)NC(=O)NC1=CC=C(C=C1)OC(F)(F)F | C25H30F3N5O4
